US07612055B2
c) (2-methyl-but-3-enyloxy)-acetic acid
Under nitrogen atmosphere a suspension of 0.5 g (5.81 mmol) 2-methyl-3-buten-1-ol and 0.348 g (8.71 mmol, 60% suspension in mineral oil) NaH in 10 ml THF are stirred 3 h at rt. Solid sodium iodo acetate (1.81 g, 8.71 mmol) is added and stirring is continued for 2 h. The mixture is diluted with water and brine, acidified with 1N HCl and extracted with EtOAc. The organic phase is dried with sodium sulfate and concentrated. the residue is kugelrohr distilled at ca 1 mbar (70-110° C.) to yield the title compound as a colorless liquid.

reactant | 2-methyl-3-buten-1-ol | 5.81 mmol, 0.5 g | CC(CO)C=C | C5H10O
reactant | NaH | 8.71 mmol, 0.348 g | [H-].[Na+]
reactant | sodium iodo acetate | 8.71 mmol, 1.81 g | C(C)(=O)OI.[Na]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | (2-methyl-but-3-enyloxy)-acetic acid | CC(COCC(=O)O)C=C | C7H12O3
